US04590198
2-(4-Chlorobenzoyl)-isonicotinanilide propylene ketal (Compound No. 76)
2-(4-Chlorobenzoyl)-isonicotinanilide (11 g) was treated as in Synthesis 16 except that ethylene glycol was replaced by propylene glycol. The titled compound was obtained in an amount of 10.5 g (yield: 80%). m.p. 125°-126° C.

reactant | 2-(4-Chlorobenzoyl)-isonicotinanilide | 11 g | ClC1=CC=C(C(=O)C=2C=C(C(=O)NC3=CC=CC=C3)C=CN2)C=C1 | C19H13ClN2O2
reactant | propylene glycol | C(C(C)O)O | C3H8O2
solvent | ethylene glycol | C(CO)O | C2H6O2
product | 2-(4-Chlorobenzoyl)-isonicotinanilide propylene ketal | yield: 80% | C1C(C)OC(C2=CC(=NC=C2)C(C2=CC=C(C=C2)Cl)=O)(NC2=CC=CC=C2)O1 | C22H19ClN2O3
